US04076526
Copoly(N-Vinyl Carbazole-Vinyl Alcohol)
Copoly(N-vinyl carbazole-vinyl acetate) (5.0 g) was dissolved in 100 ml of tetrahydrofuran and 25 ml of I N methanolic sodium hydroxide was added. The solution was stirred for 3 hours at 60° C and precipitated into 600 ml of methanol. The polymer was purified by two additional precipitations from tetrahydrofuran into methanol. The purified polymer was obtained in 90% yield and was found to contain 46.6 mole percent N-vinyl carbazole (calculated from nitrogen analysis).

reactant | N-vinyl carbazole vinyl acetate | C(=C)N1C2=CC=CC=C2C=2C=CC=CC12.C(C)(=O)OC=C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-vinyl carbazole | C(=C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H11N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Vinyl Carbazole Vinyl Alcohol | 90% yield | C(=C)N1C2=CC=CC=C2C=2C=CC=CC12.C(=C)O | InChI=1S/C14H11N.C2H4O/c1-2-15-13-9-5-3-7-11(13)12-8-4-6-10-14(12)15;1-2-3/h2-10H,1H2;2-3H,1H2
